US07071182B2
N-[1-(2-dimethylamino-ethyl)-1H-indazol-4-yl]-2-(4-phenoxy-phenyl)-acetamide
A mixture of dimethyl-[2-(4-nitro-indazol-1-yl)-ethyl]-amine (1.6 g, 6.8 mmol), iron powder (3.8 g, 68 mmol), and ammonium chloride (0.18 g, 3.4 mmol) in a 4:1 ethanol/H2O solution (20 mL) was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was taken up and stirred in triethylamine/ethyl acetate (1/4, 10 mL) for 15 minutes and then filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The combined filtrate was concentrated under reduced pressure to provide a play yellow oil. This material was then processed with (4-phenoxy-phenyl)-acetic acid according to the procedure described in Example 5 to provide the title compound. 1H NMR (300 MHz, DMSO-d6) ppm 2.85 (s, 6H), 3.62 (t, J=6.24, 2H), 3.80 (s, 2H), 4.78 (t, J=6.24, 2H), 6.99–7.01 (m, 3H), 7.13 (m, 2H), 7.36–7.40 (m, 5H), 7.45 (m, 1H), 7.71 (m, 1H), 8.40 (s, 1H), 9.61 (s, 1H); MS (DCI/NH3) m/z 415 [M+H]+.

reactant | dimethyl-[2-(4-nitro-indazol-1-yl)-ethyl]-amine | 6.8 mmol, 1.6 g | CN(CCN1N=CC2=C(C=CC=C12)[N+](=O)[O-])C | C11H14N4O2
reactant | ammonium chloride | 3.4 mmol, 0.18 g | [Cl-].[NH4+]
reactant | (4-phenoxy-phenyl)-acetic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H12O3
catalyst | iron | 68 mmol, 3.8 g | [Fe] | Fe
solvent | ethanol H2O | 20 mL | C(C)O.O
product | N-[1-(2-dimethylamino-ethyl)-1H-indazol-4-yl]-2-(4-phenoxy-phenyl)-acetamide | CN(CCN1N=CC2=C(C=CC=C12)NC(CC1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H26N4O2
